US09290517B2
(3R)-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrrolidin-3-ol
Palladium(II) acetate (31.1 mg, 0.139 mmol) was added to a stirred suspension of (3R)-1-(4-bromophenyl)pyrrolidin-3-ol (211.5 mg, 1.070 mmol), bis(pinacolato)diboron (438.1 mg, 1.725 mmol), potassium acetate (326.8 mg, 3.33 mmol), and dicyclohexyl(2′,4′,6′-triisopropyl-[1,1′-biphenyl]-2-yl)phosphine (113.1 mg, 0.237 mmol) in dioxane (10.5 ml). The reaction mixture was degassed (3×) and placed under nitrogen before being heated to 100° C. After 4 hours the reaction mixture was allowed to cool to room temperature. The reaction mixture was partitioned between EtOAc (75 ml) and water (50 ml). The aqueous layer was extracted with EtOAc (2×50 ml). The organic layers were combined, washed with brine (1×30 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a dark residue. This material was dissolved in DCM and loaded onto a 5 g silica solid load cartridge. The residue was purified using an ISCO Rf and a 24 g silica gold column (CV=35.9 ml). The column was eluted as follows: 100% Hex (1 CV), 0-40% EtOAc/Hex gradient (20 CV), 40% EtOAc/Hex (5 CV) at 35 ml/min. The product fractions were combined and evaporated under reduced pressure to give the title compound as a white residue. LC-MS: calculated for C16H24BNO3 289.18 observed m/e: 290.22 (M+H)+ (Rt 1.15/2 min).

reactant | (3R)-1-(4-bromophenyl)pyrrolidin-3-ol | 1.070 mmol, 211.5 mg | BrC1=CC=C(C=C1)N1C[C@@H](CC1)O | C10H12BrNO
reactant | bis(pinacolato)diboron | 1.725 mmol, 438.1 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.33 mmol, 326.8 mg | C(C)(=O)[O-].[K+]
reactant | dicyclohexyl(2′,4′,6′-triisopropyl-[1,1′-biphenyl]-2-yl)phosphine | 0.237 mmol, 113.1 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | dioxane | 10.5 ml | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Palladium(II) acetate | 0.139 mmol, 31.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (3R)-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrrolidin-3-ol | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1C[C@@H](CC1)O)C | C16H24BNO3
